US07851475B2
N-[2-[4-(1H-Indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-4-(4-methyl-piperazin-1-yl)-phenyl]-acetamide
To a suspension of 2-[2-Acetylamino-5-(4-methyl-piperazin-1-yl)-phenyl]-acetamide (145 mg, 0.50 mmol) and (1H-indol-3-yl)-oxo-acetic acid methyl ester (183 mg, 0.90 mmol) in dry THF (6.0 mL) is added a solution of 1.0 M t-BuOK in THF (2.0 mL, 2.0 mmol) at 0° C. under argon. The resulting yellow suspension is stirred for 18 h at RT. The now dark red reaction mixture is partitioned between EtOAc (25 mL) and brine (25 mL), and the layers are separated. The pH of the aqueous layer is adjusted to 6 with a sat., aqueous NH4Cl solution. The aqueous layer is extracted with EtOAc (2×25 mL) and the combined organic layers are washed with brine (25 mL), dried over Na2SO4, and concentrated at reduced pressure. The crude product is purified by FCC (EtOAc/AcOH/H2O 5.5:1:1) to afford the title compound as its water soluble acetate salt. Orange solid. 1H NMR (DMSO-de, 400 MHz): δ 1.75 (s, 12H, CH3COO), 2.16 (s, 3H), 2.31-2.38 (m, 4H), 2.92-2.99 (m, 4H), 6.61 (d, J=7.8 Hz, 1H), 6.66 (t, J=7.4 Hz, 1H), 6.75 (d, J=2.5 Hz, 1H), 6.92 (dd, J=9.0 Hz, J=2.7 Hz, 1H), 6.99 (t, J=7.5 Hz, 1H), 7.32 (d, J=8.1 Hz, 1H), 7.47 (d, J=8.9 Hz, 1H), 7.75 (s, 1H), 8.69 (s, 1H), 11.86 (bs, 1H). ES+-MS: 444 [M+H]+.

reactant | 2-[2-Acetylamino-5-(4-methyl-piperazin-1-yl)-phenyl]-acetamide | 0.50 mmol, 145 mg | C(C)(=O)NC1=C(C=C(C=C1)N1CCN(CC1)C)CC(=O)N | C15H22N4O2
reactant | (1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.90 mmol, 183 mg | COC(C(=O)C1=CNC2=CC=CC=C12)=O | C11H9NO3
reactant | t-BuOK | 1.0 M | CC(C)(C)[O-].[K+]
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mmol, 2.0 mL | C1CCOC1 | C4H8O
product | N-[2-[4-(1H-Indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-4-(4-methyl-piperazin-1-yl)-phenyl]-acetamide | N1C=C(C2=CC=CC=C12)C1=C(C(NC1=O)=O)C1=C(C=CC(=C1)N1CCN(CC1)C)NC(C)=O | C25H25N5O3
